US06780861B2
(R)-(+)-(1-Aza-bicyclo[2.2.2]oct-3-yl)-carbamic acid benzyl ester
Sodium hydride (dispersion 55%) 0.33 g (7.5 mmol) is washed with petrolether and the solvent is removed by separation (decantation). Then, the sodium hydride is carefully suspended in dimethylformamide (12.5 ml). To this suspension (R)-(+)-3-aminoquinuclidine dihydrochloride 0.50 g (2.5 mmol) is added. The initially exothermic reaction is then stirred at room temperature for one hour and then carbobenzoxy chloride 0.39 ml (2.75 mmol) is added to the reaction mixture within 15 minutes. The again initially exothermic reaction is stirred at room temperature for 90 minutes, then the mixture is poured into 10% brine (NaCl/water solution) and then four-times extracted with toluene. The combined organic phases are dried and evaporated. The crude oily residue is dissolved in dioxane (5 ml) and 0.31 ml of a 4 M hydrochloric acid is added. The mixture is then stirred at room temperature till the product precipitates. The crystals are filtered, washed with dioxane and ether and dried to give the title product. Mp=228-229° C. Optical rotation +6.3° (c=0.5, water).

reactant | Sodium hydride | 7.5 mmol, 0.33 g | [H-].[Na+]
reactant | (R)-(+)-3-aminoquinuclidine dihydrochloride | 2.5 mmol, 0.50 g | Cl.Cl.N[C@H]1CN2CCC1CC2
reactant | carbobenzoxy chloride | 2.75 mmol, 0.39 ml | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | brine | [Cl-].[Na+].O
product | (R)-(+)-(1-Aza-bicyclo[2.2.2]oct-3-yl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N[C@H]1CN2CCC1CC2)=O | C15H20N2O2
